US06127360
Synthesis of 1-(2-quinolylcarbonyl)piperazine hydrochloride
After a mixture consisting of 1-benzyl-4-(2-quinolylcarbonyl)piperazine hydrochloride (18.81 g, 51.1 mmol), 10% palladium-charcoal catalyst (3.00 g) and water (150 ml) was stirred for 3 hours at a bath temperature of 70° C. under a hydrogen gas stream, the catalyst was removed and the solvent was then distilled off. The residue was crystallized from ethanol, whereby 11.03 g of the title compound were obtained as colorless prisms (yield: 77.7%).

reactant | 1-benzyl-4-(2-quinolylcarbonyl)piperazine hydrochloride | 51.1 mmol, 18.81 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=NC2=CC=CC=C2C=C1
catalyst | palladium-charcoal | 3.00 g | [Pd] | Pd
solvent | water | 150 ml | O | H2O
product | 1-(2-quinolylcarbonyl)piperazine hydrochloride | 11.03 g | Cl.N1=C(C=CC2=CC=CC=C12)C(=O)N1CCNCC1 | InChI=1S/C14H15N3O.ClH/c18-14(17-9-7-15-8-10-17)13-6-5-11-3-1-2-4-12(11)16-13;/h1-6,15H,7-10H2;1H
